US08431596B2
[5-(1-Methanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-276)
To a stirred solution of [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.05 g, 0.128 mmol) in dichloromethane (1 ml) was added triethylamine (23 μl, 0.166 mmol) followed by methanesulfonyl chloride (12 μl, 0.154 mmol). The mixture was stirred for 18 hours at room temperature, then filtered and concentrated in vacuo. The product was purified by preparatory HPLC to yield the desired product. RT: 2.41 min, MI: 468, Method: 2; 1H NMR (DMSO, 300 MHz): 9.56 (s, 1H), 9.47 (s, 1H), 8.94 (s, 1H), 8.18 (s, 2H), 7.69-7.54 (m, 3H), 6.93 (d, 2H), 4.06 (t, 2H), 3.72 (s, 3H), 2.92 (t, 2H), 2.67 (s, 4H), 1.74 (s, 4H).

reactant | [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.128 mmol, 0.05 g | N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C21H23N7O
reactant | triethylamine | 0.166 mmol, 23 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.154 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [5-(1-Methanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | CS(=O)(=O)N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C22H25N7O3S
